Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Chest Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: ___ with history of 2.5-mm R PCOM aneurysm, schizophrenia, 
and frequent falls now presents 3 days after falling from 
standing. Pt reports that he has a history of similar falls, and 
cannot recollect any particular inciting event which precedes 
these episodes. He presents today due to persistent lower left 
chest pain. Aside from this pain, he has no additional 
complaints, such as LOC, mental status changes, nausea, 
vomiting, abdominal pain, SOB. 

ROS: as per HPI, otherwise negative; pt is not on aspirin or any 
blood thinners. 
 
Past Medical History:
PMHx: schizophrenia, h/o 2.5mm R PCOM aneurysm which is being 
followed by imaging (Dr. ___ last in ___, HL, headaches, 
h/o syncope, fatty liver, h/o hemorrhoids, h/o tremor and 
atypical chest pain

PSHx: ___ Excision of soft tissue mass with local flap coverage 
and closure left heel.
 
Social History:
___
Family History:
Not known.
 
Physical Exam:
Admission:
========
VITALS: 98.0 86 142/70 16 100RA 
Gen: NAD, comfortable appearing
HEENT: atraumatic, AAOx3, conversant and speech fluent in 
___
CV: RRR, no m/r/g
Resp: Clear ___, some crackles at bases, ttp along lower left 
posterior chest wall, no bruising
Abd: soft, NT/ND, no masses
Ext: wwp, moving all normally, with no reported pain in UE or 
___,
no obvious fractures or deformities 

Discussion:
=========
VITALS:
Gen: NAD, comfortable appearing
HEENT: atraumatic, AAOx3, conversant and speech fluent in 
___
CV: RRR, no m/r/g
Resp: CTAB, some ttp along lower left posterior chest wall, no 
bruising
Abd: soft, NT/ND, no masses
Ext: wwp, moving all normally, with no reported pain in UE or 
___,
no obvious fractures or deformities 
 
Pertinent Results:
Admission:
========
___ 09:00AM BLOOD WBC-11.6* RBC-5.14 Hgb-15.0 Hct-45.3 
MCV-88 MCH-29.2 MCHC-33.1 RDW-14.7 RDWSD-47.4* Plt ___
___ 09:00AM BLOOD Glucose-82 UreaN-12 Creat-0.9 Na-137 
K-4.3 Cl-94* HCO3-20* AnGap-23*

Imaging:
=======
CT chest w/o contrast (___) impression:
1.   Acute fractures of the posterior left seventh, eighth, and 
ninth ribs of which the left seventh rib fracture is mildly 
displaced.  Small left-sided nonhemorrhagic pleural effusion and 
atelectasis and contusion.
 
2.   Two nodules at the right lung base may reflect atelectasis 
but follow-up chest CT in ___ year can be performed.

Discharge:
========
___ 07:20AM BLOOD WBC-11.6* RBC-5.16 Hgb-14.9 Hct-44.8 
MCV-87 MCH-28.9 MCHC-33.3 RDW-14.5 RDWSD-46.2 Plt ___
___ 07:20AM BLOOD Glucose-110* UreaN-15 Creat-0.7 Na-138 
K-4.0 Cl-99 HCO3-23 AnGap-16
___ 07:20AM BLOOD Calcium-9.6 Phos-2.9 Mg-2.3
 
Brief Hospital Course:
The patient was admitted to ___ from the Emergency Department 
on ___ for left rib ___ fractures after sustaining a fall on 
___. No other traumatic injuries were noted that that time. 
The left lug also appeared to have some mild atelectasis vs 
early pulmonary contusion. The patient was monitored for pain 
control, pulmonary toilet, and a medical work up of syncope, 
which came back negative. The patient was deemed medically 
cleared on ___ but wanted social work to see the patient 
first prior to discharge to ensure that he felt he had enough 
support. The social worker saw the patient the evening of 
___, and with the help of a ___ interpreter, the patient 
stated that he lives alone at home but has ___ care and receives 
support from another agency, and does not feel he needs any 
additional services or resources at this time. 

The patient was discharged the morning of ___. At the time 
of discharge the patient was tolerating a regular diet, voiding 
without issue, ambulating without assistance, and his pain was 
well controlled with oral pain medications. He was provided with 
the appropriate discharge and follow up instructions and was 
encouraged to follow up with his outpatient providers in the 
near future.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benztropine Mesylate 0.5 mg PO BID 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Fluphenazine 5 mg PO DAILY 
4. LORazepam 0.5 mg PO QHS:PRN insomnia 
5. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID:PRN constipation  
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  Famotidine 20 mg PO BID 
RX *famotidine [Acid Reducer (famotidine)] 20 mg 1 tablet(s) by 
mouth twice a day Disp #*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every 6 hours 
Disp #*15 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth twice a day Disp #*30 Tablet Refills:*0 
6.  Fluphenazine 10 mg PO QPM  
7.  LORazepam 0.5-1 mg PO QHS:PRN insomnia  
8.  Benztropine Mesylate 0.5 mg PO BID  
9.  Escitalopram Oxalate 10 mg PO DAILY  
10.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ rib fractures
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ from 
the Emergency Department on ___ for a fall that occurred 
from standing on ___ and resulted with three left rib 
fractures (___). You have now been deemed medically cleared for 
discharge home. Please read the following discharge instructions 
in order to assist with a successful recovery.

RIB FRACTURES
=============
* Your injury caused three (3) rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain. 

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician. 

* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 

* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing. 

* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain. 

* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible. 

* Do NOT smoke 

* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves. 

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

FOLLOW UP
=========
* Please follow up with your primary care physician within ___ 
week or two after being discharged from the hospital.

* You have been scheduled for an appointment to receive ___ 
of Hearts monitor. This device is to measure your heart activity 
to see if this may be causing your recurrent falls. The results 
of this monitor device will be sent to your primary care 
physician. Your appointment date and time is ___ at 9:00AM in the Deaconess ___ on 
the ___ Floor.

Thank you for allowing us to participate in your care.

Sincerely,

Your ___ Team

 

 
Followup Instructions:
___